Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
___: OR with podiatry, R ___ toe amputation
 
History of Present Illness:
___ year old man with a hx of poorly controlled diabetes, 
hypertension, stage 5 CKD, neuropathy, chronic R foot wound, 
anemia (iron deficiency and AoCKD), in the process of transplant 
evaluation and tentative planning for dialysis, who is 
presenting with nausea, coughing, and emesis.

2 days ago he started having vomiting.  This progressed to two 
episodes of "brown" emesis, which prompted calling EMS on 
___.  He had no episodes of hematemesis in the ED.

- In ED initial VS:  temp 100.1, HR 124, BP 142/64, RR 16, 99% 
RA
- He was noted to have R foot wound
- Labs significant for:  WBC 26.4, initial VBG 7.31/25, anion 
gap, no ketones, Cr 9.1, BUN 82
- Patient was given:  Insulin drip, D5NS with KCl, Cefepime, 
Vancomycin, IV PPI, IV Zofran
- Imaging notable for:  CXR without acute process, Foot X-Ray 
done

Consults:  Renal and Podiatry

Podiatry was consulted, and explored the wound at bedside, 
showing gas, concerning for source of infection, recommending 
OR.

On arrival to the MICU, pt feeling a bit better.  Nausea was 
resolved after Zofran.  No other new symptoms.

He subsequently was taken to the OR with Podiatry.  Gas was 
seen, and it appeared consistent with Necrotizing Fasciitis.
 
Past Medical History:
ESRD stage 5
DM
HTN
Chronic anemia
History of Septic R Hip ___
R foot ulcer s/p ___ metatarsal resection (___), s/p ___ 
metatarsal removal (___)

 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
ADMISSION EXAM:
 VITALS:  Reviewed in Metavision 
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear
 NECK: supple
 LUNGS: Clear to auscultation bilaterally
 CV: Regular rate and rhythm,
 ABD: soft, non-tender, non-distended
 EXT: Warm, well perfused.  Decreased sensation to light touch 
bilateral legs.  R foot wound dressed. 
 NEURO:  Alert, oriented, MAE.  Mild asterixis
 

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.2 162/89 99 18 97 Ra 
GENERAL: Adult male in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
==================
___ 04:45PM BLOOD WBC-26.4*# RBC-3.14* Hgb-8.9* Hct-26.4* 
MCV-84 MCH-28.3 MCHC-33.7 RDW-14.0 RDWSD-42.8 Plt ___
___ 04:45PM BLOOD Neuts-89.8* Lymphs-1.7* Monos-6.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-23.71*# AbsLymp-0.46* 
AbsMono-1.68* AbsEos-0.01* AbsBaso-0.04
___:45PM BLOOD ___ PTT-27.1 ___
___ 04:45PM BLOOD Glucose-310* UreaN-82* Creat-9.1*# 
Na-126* K-4.2 Cl-87* HCO3-11* AnGap-28*
___ 04:45PM BLOOD Albumin-3.5 Calcium-8.9 Phos-4.9* Mg-1.4*
___ 04:45PM BLOOD Albumin-3.5 Calcium-8.9 Phos-4.9* Mg-1.4*
___ 09:20PM BLOOD ___ pO2-43* pCO2-25* pH-7.31* 
calTCO2-13* Base XS--11 Intubat-NOT INTUBA
___ 04:50PM BLOOD Lactate-1.1 K-4.0
___ 08:42PM URINE Blood-SM* Nitrite-NEG Protein-300* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

IMAGING
==============
___ CXR
No acute cardiopulmonary process.

___ foot xray
Ulceration with adjacent subcutaneous gas within the 
subcutaneous soft tissues along the plantar aspect of the foot 
at the base of the second toe.  No radiographic evidence of 
osteomyelitis. 

___ foot xray
Appropriate postoperative changes status post distal second 
digit debridement. Similar chronic changes of the fourth and 
fifth metatarsals, which may be postoperative however a 
superimposed infectious process cannot be excluded. 

___ ABI
Normal resting lower extremity arterial study bilaterally.

___ Tunneled HD line
Successful placement of a  23cm tip-to-cuff length tunneled 
dialysis line.  The tip of the catheter terminates in the right 
atrium. The catheter is ready for use. 
 
___ Foot xray
Stable postsurgical changes.  No new bone destruction.\

___ Foot xray
Postsurgical changes right foot.  Lucency at the base of the 
third toe proximal phalanx appears similar to prior exam and can 
be followed on subsequent exams. 

___ CT Head
1. No acute intracranial abnormalities. 
2. 2.4 x 1.8 x 2.6 cm rounded well-circumscribed lesion within 
the left anterior cranial fossa adjacent to the falx cerebri 
consistent with the patient's known history of meningioma, 
stable in size as compared to outside MRI dated ___. 


Discharge labs
================
___ 07:15AM BLOOD WBC-10.6* RBC-2.71* Hgb-7.7* Hct-24.6* 
MCV-91 MCH-28.4 MCHC-31.3* RDW-13.5 RDWSD-44.2 Plt ___
___ 07:15AM BLOOD Glucose-108* UreaN-24* Creat-4.2* Na-136 
K-4.1 Cl-96 HCO3-23 AnGap-17
___ 07:15AM BLOOD Calcium-9.0 Phos-5.1* Mg-1.8
 
Brief Hospital Course:
Summary
___ w/pmh poorly controlled diabetes, hypertension, stage 5 CKD, 
neuropathy, chronic R foot wound who presented with emesis, 
anion gap metabolic acidodis, and leukocytosis, found to have 
necrotizing fasciitis of the R foot s/p R ___ toe amputation on 
___. Went back to OR for additional debridement ___ and was 
found to have osteomyelitis. Was initiated on HD for worsening 
ESRD and will be treated with course of IV vancomycin and 
ceftaz, po flagyl. He was discharged to rehab. 

# R Foot Necrotizing Fasciitis
# Diabetic Foot Infection
H/o chronic foot infection I/s/o diabetes, but with gas on exam 
of foot by Podiatry. Podiatry took to OR on ___, amputation of 
___ toe done, with evidence of Nec Fasciitis in OR. Gram stain 
with polymicrobial: GPC, GPR, GNR. ABI was done and normal 
bilaterally. Went back to OR for additional debridement ___ 
with close to complete closure. 

OPAT Antimicrobial Regimen and Projected Duration:
Agent & Dose: 500mg vancomycin qHD, 2g-2g-3g Ceftazidime qHD, 
and metronidazole 500mg TID PO. 
Start Date: ___
Projected End Date: ___

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

PLEASE CHECK WEEKLY: CBC with differential, BUN, Cr, Vancomycin 
trough, ESR, CRP

# ESRD
Presented with metabolic acidosis secondary to uremia/ESRD. Labs 
not consistent with DKA. Had been nearing dialysis as 
outpatient, with recent vein mapping and discussion of HD and 
Transplant. Underwent tunneled HD line placement and started HD 
on ___. Hepatitis viaral panel with borderline HBsAb. PPD 
placed and negative this admission. HBV vaccine given ___ for 
intermediate titer. Will continue ___ HD as outpatient. 

# Hyperglycemia
# IDDM
Presented with Glucose >300 and anion gap, though no ketones. 
Temporarily on insulin gtt in ED, discontinued in ICU. Was 
discharged on lantus 8u qpm with sliding scale at meals. 

# Normocytic anemia
Close to baseline on presentation, likely related to underlying 
renal disease. Iron panel consistent with inflammation, B12 wnl. 
S/p transfusion 1u pRBC with appropriate response. Continue iron 
infusions with HD. 

# HTN 
Continue lisinopril 5mg daily and uptitrate as tolerated. 

# HLD 
Continue home atorvastatin. 

Transitional issues
- Antibiotic course with vancomycin, ceftazidime and flagyl as 
below. Please ensure patient is receiving antibiotics with HD 
sessions. 
- Will need weekly labs as below. 
- Follow in clinic with podiatry and infectious disease. 
- BP regimen on discharge was lisinopril, and this can be 
uptitrated as tolerated. Would check chem7 in 1 week. 
- Insulin regimen: lantus 8u qpm with sliding scale at meals.
- Should wear protective boot to R leg at all times and be 
non-weight bearing. 

#CONTACT: HCP: ___, brother, ___ ___, 
sister in law, ___ 
#CODE: Full 

OPAT Antimicrobial Regimen and Projected Duration:
Agent & Dose: 500mg vancomycin qHD, 2g-2g-3g Ceftazidime qHD, 
and metronidazole 500mg TID PO. 
Start Date: ___
Projected End Date: ___

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

PLEASE CHECK WEEKLY: CBC with differential, BUN, Cr, Vancomycin 
trough, ESR, CRP
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.25 mcg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Sodium Bicarbonate 1300 mg PO BID 
4. Calcium Carbonate 500 mg PO TID 
5. Epoetin ___ ___ units SC EVERY 14 DAYS 
6. Furosemide 20 mg PO DAILY 
7. Glargine 20 Units Bedtime
8. Atorvastatin 20 mg PO QPM 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  CefTAZidime 2 g IV 2X/WEEK (___)   
2.  CefTAZidime 3 g IV 1X/WEEK (SA) 
3.  MetroNIDAZOLE 500 mg PO Q8H  
4.  ___  MD to order daily dose IV HD PROTOCOL  
5.  Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Atorvastatin 20 mg PO QPM  
7.  Calcitriol 0.25 mcg PO DAILY  
8.  Epoetin ___ ___ units SC EVERY 14 DAYS  
9.  Lisinopril 5 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
ESRD with HD initiation
necrotizing fasciitis with Osteomyelitis

Secondary
T2DM
HTN
Anemia
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ with a foot infection. We have treated you 
with antibiotics and started you on dialysis. 

It was a pleasure taking care of you, best of luck.
Your ___ medical team
 
Followup Instructions:
___